US06518423B1
To a solution of 180 g of paraformaldehyde in methanol (500 ml) were slowly added under ice-cooling 230 ml of a 40% solution of methylamine in methanol and 17 ml of acetic acid. After adding dropwise a solution of 250 ml of 3,5-dimethylcyclohexanone in methanol (1 l) thereinto, the resulting mixture was heated under reflux for 5 hours. Then the reaction mixture was cooled to room temperature and the solvent was distilled off under reduced pressure. The residue was acidified by adding dilute hydrochloric acid and then extracted with ethyl acetate. The aqueous layer was made basic by adding sodium hydroxide and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Then the residue was distilled under reduced pressure (100-110° C./1 mmHg) to thereby give 79 g of crude (6R*,8R*)-3,6,8-trimethyl-3-azabicyclo[3.3.1]nonan-9-one as a pale yellow oily substance.

reactant | paraformaldehyde | 180 g | C=O | CH2O
reactant | methylamine | CN | CH5N
reactant | 3,5-dimethylcyclohexanone | 250 ml | CC1CC(CC(C1)C)=O | C8H14O
reactant | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 1 l | CO | CH4O
product | (6R*,8R*)-3,6,8-trimethyl-3-azabicyclo[3.3.1]nonan-9-one | 79 g | CN1CC2[C@@H](C[C@H](C(C1)C2=O)C)C | C11H19NO
